US07696347B2
(11A-1) 1-Methyl-4-tributylstannylmethoxypiperidine
To a solution of 4-hydroxy-1-methylpiperidine (802 mg, 6.96 mmol) in tetrahydrofuran (20 ml) was added sodium hydride (50%, 334 mg, 6.96 mmol) at room temperature, and the mixture was stirred at room temperature for 35 minutes. To the reaction mixture were added a solution of tributyl-iodomethyl-tin (2.00 g, 4.64 mmol) in tetrahydrofuran (5 ml), and N,N-dimethylformamide (10 ml) at room temperature, and the mixture was stirred at room temperature for 7 hours and 50 minutes. To the reaction mixture was added water under ice-cooling, followed by extraction with ethyl acetate. The organic layer was washed sequentially with water and an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=100:1 to 20:1) to obtain the title compound (1.42 g, 3.39 mmol, 73%).

reactant | 4-hydroxy-1-methylpiperidine | 6.96 mmol, 802 mg | OC1CCN(CC1)C | C6H13NO
reactant | sodium hydride | 6.96 mmol, 334 mg | [H-].[Na+]
reactant | tributyl-iodomethyl-tin | 4.64 mmol, 2.00 g | C(CCC)[Sn](CI)(CCCC)CCCC
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-Methyl-4-tributylstannylmethoxypiperidine | 3.39 mmol, 1.42 g, 73% | CN1CCC(CC1)OC[Sn](CCCC)(CCCC)CCCC | InChI=1S/C7H14NO.3C4H9.Sn/c1-8-5-3-7(9-2)4-6-8;3*1-3-4-2;/h7H,2-6H2,1H3;3*1,3-4H2,2H3;
